US04714492
Ethyl 3-methylamino-2-hexeneoate
A solution of 31.64 g (0.2 mol) ethyl butyryl acetate and 5 ml of ethanol is added dropwise over a period of 5 min. to a solution of 38.7 g (0.6 mol) ethylamine (70% in water) and 50 ml of water (exotherm from 28° C. to 33° C. observed). The mixture is stirred at room temperature for 18 hrs. and is extracted with three 100 ml portions of methylene dichloride (MDC). The methylene dichloride extract is dried over magnesium sulfate and concentrated in vacuo to afford 30.7 g (83% yield) of product, a colorless oil.

reactant | ethyl butyryl acetate | 0.2 mol, 31.64 g | CCCC(=O)OC(=O)CCC | C8H14O3
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | ethylamine | 0.6 mol, 38.7 g | C(C)N | C2H7N
solvent | water | 50 ml | O | H2O
product | Ethyl 3-methylamino-2-hexeneoate | 30.7 g, 83% yield | CNC(=CC(=O)OCC)CCC | C9H17NO2
